US08097634B2
Step B): 8-(2-chlorophenylsulfonyl)-2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione
This material was prepared as a white solid in analogy to example 3) from 2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione and 2-chlorobenzenesulfonyl chloride. MS (ESI): 501.08 (MH+).

reactant | 2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione | FC(CC1=CC=C(C=C1)N1C(C2(CC1)CC(NCC2)=O)=O)(F)F | C16H17F3N2O2
reactant | 2-chlorobenzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 8-(2-chlorophenylsulfonyl)-2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione | ClC1=C(C=CC=C1)S(=O)(=O)N1C(CC2(CCN(C2=O)C2=CC=C(C=C2)CC(F)(F)F)CC1)=O | C22H20ClF3N2O4S
